US06603005B2
A mixture of 0.15 g of ethyl 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(4,5-dihydrothiazol-2-ylthio)ethyl]piperidine-4-carboxylate in 5 cm3 of dioxane, 5 cm3 of methanol and 1 cm3 of aqueous 5N sodium hydroxide solution was maintained at a temperature in the region of 75° C. for 20 hours. After cooling to about 20° C., the reaction mixture was concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue obtained was purified by chromatography under atmospheric pressure, on a column of silica gel (Bond Elut; particle size 70-200μ; mass 7 g), eluting with a mixture of dichloromethane/methanol/aqueous ammonia (40/5/0.5 by volume). The fractions containing the product were combined, concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. and then oven-dried under reduced pressure (10 kPa) at about 50° C. 0.1 g of 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(4,5-dihydrothiazol-2-ylthio)ethyl]piperidine-4-carboxylic acid was obtained in the form of a white solid.

reactant | ethyl 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(4,5-dihydrothiazol-2-ylthio)ethyl]piperidine-4-carboxylate | 0.15 g | FC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCSC=1SCCN1)C(=O)OCC)OC | C26H34FN3O3S2
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | dioxane | 5 cm3 | O1CCOCC1 | C4H8O2
solvent | methanol | 5 cm3 | CO | CH4O
product | 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(4,5-dihydrothiazol-2-ylthio)ethyl]piperidine-4-carboxylic acid | 0.1 g | FC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCSC=1SCCN1)C(=O)O)OC | C24H30FN3O3S2
